US07049442B2
11. Preparation of 2,6-bis[1-(1-pyrrolylimino)ethyl]pyridine (11)
2,6-Diacetylpyridine (345 mg, 2.11 mmol) and 1-aminopyrrole (400 mg, 4.87 mmol) were dissolved in 50 ml of toluene. To this solution, molecular sieves (4 Å) were added. After standing for 2 days at room temperature, the mixture was filtered. The solvent was removed in vacuo. The residue was crystallised from ethanol. Yield 350 mg (57%) of diimine 11.

reactant | 2,6-Diacetylpyridine | 2.11 mmol, 345 mg | C(C)(=O)C1=NC(=CC=C1)C(C)=O | C9H9NO2
reactant | 1-aminopyrrole | 4.87 mmol, 400 mg | NN1C=CC=C1 | C4H6N2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-bis[1-(1-pyrrolylimino)ethyl]pyridine | N1(C=CC=C1)N=C(C)C1=NC(=CC=C1)C(C)=NN1C=CC=C1 | C17H17N5
